US07329662B2
2-(4-Methoxy-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-(4-methoxy-phenyl)-4,4,4-trifluoro-butane-1,3-dione (246 mg, 1.0 mmol), prepared from commercially available 4-methoxy-acetophenone according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (125 mg, 39%). MS (ISP) 319.1 [(M+H)+]; mp 192° C.

reactant | 1-(4-methoxy-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 246 mg | COC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C11H9F3O3
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-(4-Methoxy-phenyl)-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 125 mg, 39% | COC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N | C15H9F3N4O
